US07601736B2
8-hydroxy-6methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on (324 mg, 1.809 mmol) and anhydrous potassium carbonate were suspended in anhydrous dimethylformamide (DMF, 10 mL) and then dropwisely added with iodomethane (1.13 mL, 18.09 mmol) and stirred for about 4 hours at 70° C. under the nitrogen atmosphere. The mixture was concentrated under reduced pressure, added with 50 mL of distilled water and then extracted six times with 40 mL of 10% MeOH/MC. The resulting organic layer was dried using anhydrous sodium sulfate, filtered and concentrated. A silica gel column chromatography (10% MeOH/MC) was performed on the resulting residue and 215 mg (62%) of 8-methoxymethyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on was obtained in pale yellow solid.

reactant | 8-hydroxy-6methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on | 1.809 mmol, 324 mg | OC=1N=C(C=C2C1C(OCC2)=O)C | C9H9NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 18.09 mmol, 1.13 mL | IC | CH3I
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 8-methoxymethyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on | 215 mg, 62% | COCC=1N=CC=C2C1C(OCC2)=O | C10H11NO3
